US08138197B2
Production of 1′-{[1-Cyclopropyl-4-(tetrazol-5-yl)-1H-indol-6-yl]carbonyl}-6-(6-oxo-1,6-dihydropyridin-3-yl)spiro[chroman-2,4′-piperidin]-4-one
6-(6-Oxo-1,6-dihydropyridin-3-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (208 mg), 1-cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylic acid (135 mg), EDCI (115 mg), HOBT (91.2 mg) and triethylamine (0.209 ml) were suspended in DMF (3 ml), and stirred at 50° C. for 16 hours. 1N hydrochloric acid and water were added to the reaction liquid, the formed solid was taken out through filtration, and the resulting solid was recrystallized from methanol to obtain the title compound. 1H-NMR (400 MHz, DMSO-d6) δ: 11.78 (1.0H, s), 7.85-7.82 (2.0H, m), 7.81-7.75 (3.0H, m), 7.67 (1.0H, d, J=2.4 Hz), 7.64 (1.0H, d, J=3.2 Hz), 7.17-7.11 (2.0H, m), 6.40 (1.0H, d, J=9.5 Hz), 4.46-4.12 (1.0H, m), 3.93-3.13 (4.0H, m), 2.92 (2.0H, s), 2.15-1.90 (2.0H, m), 1.88-1.75 (2.0H, m), 1.16-1.08 (2.0H, m), 1.04-0.98 (2.0H, m). MS [M+H]+=562.

reactant | 6-(6-Oxo-1,6-dihydropyridin-3-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 208 mg | Cl.O=C1C=CC(=CN1)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | 1-cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylic acid | 135 mg | C1(CC1)N1C=CC2=C(C=C(C=C12)C(=O)O)C1=NN=NN1 | C13H11N5O2
reactant | EDCI | 115 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 91.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.209 ml | C(C)N(CC)CC | C6H15N
product | 1′-{[1-Cyclopropyl-4-(tetrazol-5-yl)-1H-indol-6-yl]carbonyl}-6-(6-oxo-1,6-dihydropyridin-3-yl)spiro[chroman-2,4′-piperidin]-4-one | C1(CC1)N1C=CC2=C(C=C(C=C12)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C2=CNC(C=C2)=O)C2=NN=NN2 | C31H27N7O4
